*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : APXN160ARA151MH70G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT APXN160ARA151MH70G_20deg-C 1 2

C1 4 2 1.04e-04
C2 5 2 2.41e-05
C3 6 2 2.12e-06
R1 3 4 1.89e-02
R2 4 5 1.24e-01
R3 5 6 1.28e-02
L1 1 3 3.40e-09

.ENDS
*$
